US04025527
N,N'-bis-[2-(2-Pyridylmethylthio)ethyl]-N"-cyanoguanidine
The reaction of N-cyano-N'-[2-(2-pyridylmethylthio)ethyl] -S-methylisothiourea with 2-((2-aminoethyl)pyridine by the method described in Example 7 afforded the title compound m.p. 78°-80°.

reactant | N-cyano-N'-[2-(2-pyridylmethylthio)ethyl] -S-methylisothiourea | C(#N)NC(SC)=NCCSCC1=NC=CC=C1 | C11H14N4S2
reactant | (2-aminoethyl)pyridine | NCCC1=NC=CC=C1 | C7H10N2
product | N,N'-bis-[2-(2-Pyridylmethylthio)ethyl]-N"-cyanoguanidine | N1=C(C=CC=C1)CSCCNC(=NC#N)NCCSCC1=NC=CC=C1 | C18H22N6S2
